US05587504
Synthesis of Methyl 2-(4'-methanesulfonyloxymethylphenyl)benzoate
10.0 g (41 mmol) of methyl 2-(4'-hydroxymethylphenyl)benzoate and 8.4 g (83.0 mmol) of triethylamine were dissolved in methylene chloride (150 ml). Under cooling with ice, a solution of 5.7 g (50 mmol) of methanesulfonyl chloride in methylene chloride (25 ml) was dropwise added thereto, followed by further stirring for one hour. The reaction liquid was poured into water, followed by the extraction with methylene chloride. After the organic phase was washed with water and dried, it was subjected to vacuum concentration. 13.1 g of the title compound was obtained as a wax (yield 100%).

reactant | methyl 2-(4'-hydroxymethylphenyl)benzoate | 41 mmol, 10.0 g | OCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H14O3
reactant | triethylamine | 83.0 mmol, 8.4 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 50 mmol, 5.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4'-methanesulfonyloxymethylphenyl)benzoate | 13.1 g, yield 100% | CS(=O)(=O)OCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C16H16O5S
